* Z:\trinary\code\circuits\main.asc
XX2 $G_Vdd $G_Vss tpower
XCYCLE_PC ADDRESS_BUF PC_PLUS_1 tcycle_up
V§CLK_F FETCH 0 PULSE(-5 5 3u 1n 1n 15u 30u)
XPROGRAM_COUNTER NEXT_ADDR FETCH ADDRESS_BUF NC_01 dtflop-ms2
XMUX_PC PC_PLUS_1 0 0 CTRL_PC NEXT_ADDR mux3-1
V1 CTRL_PC 0 PWL(0 0 5u 0 5.1u -5)
XX3 I0_opcode IS_CMP IS_LWI IS_BE decoder3-1
XREGISTER_A I2 N001 A2 I1 A1 A0 0 trit_reg3
V§CLK_D DECODE 0 PULSE(-5 5 5u 100p 100p 15u 30u)
V§CLK_X EXECUTE 0 PULSE(-5 5 10u 1n 1n 15u 30u)
XX6 IS_LWI DECODE N001 min
XX1 ADDRESS_BUF I0_opcode I1 I2 swrom

* block symbol definitions
.subckt tpower Vdd Vss
Vdd Vdd 0 5V
Vss 0 Vss 5V
.ends tpower

.subckt tcycle_up IN OUT
XX3 N001 N002 nti
XX4 N001 N003 pti
XX5 IN N001 sti
XX1 N002 N004 OUT tnor
XX2 N003 0 N004 tnor
.ends tcycle_up

.subckt dtflop-ms2 D CLK Q _Q
XMaster D N002 N001 NC_01 dtflop
XSlave N001 CLK Q _Q dtflop
XX1 CLK N002 sti
.ends dtflop-ms2

.subckt mux3-1 A B C S Q
XX1 A Q N001 tg
XX3 C Q N002 tg
XX2 B Q N003 tg
XX4 S N001 N003 N002 decoder3-1
.ends mux3-1

.subckt decoder3-1 IN OUT_i OUT_0 OUT_1
XX5 IN N003 pti
XX6 N003 OUT_1 pti
XX1 IN OUT_i nti
XX4 N001 OUT_0 pti
XX2 IN N002 sti
XX3 IN N002 N001 max
.ends decoder3-1

.subckt trit_reg3 D2 CLK Q2 D1 Q1 Q0 D0
XX1 D2 CLK Q2 dtflop-ms
XX2 D1 CLK Q1 dtflop-ms
XX3 D0 CLK Q0 dtflop-ms
.ends trit_reg3

.subckt min A B MIN_OUT
XX2 P001 MIN_OUT sti
XX1 A B P001 tnand
.ends min

.subckt swrom ADDRESS D0 D1 D2
XX1 0 0 0 0 $G_Vss 0 0 $G_Vdd $G_Vss ADDRESS D2 D1 D0 mux9-3
.ends swrom

.subckt nti IN OUT
XX1 IN NC_01 NC_02 OUT tinv
.ends nti

.subckt pti IN OUT
XX1 IN OUT NC_01 NC_02 tinv
.ends pti

.subckt sti IN OUT
XX1 IN NC_01 OUT NC_02 tinv
.ends sti

.subckt tnor A B TNOR_Out
RP N002 TNOR_Out 12k
RN TNOR_Out N003 12k
MN1 N003 A $G_Vss $G_Vss CD4007N
MP2 N001 A $G_Vdd $G_Vdd CD4007P
MN2 N003 B $G_Vss $G_Vss CD4007N
MP1 N001 B N002 $G_Vdd CD4007P
.ends tnor

.subckt dtflop D CLK Q _Q
XX1 N001 _Q Q tnand
XX2 Q N002 _Q tnand
XX3 D CLK N001 tnand
XX4 CLK N003 N002 tnand
XX5 D N003 sti
.ends dtflop

.subckt tg IN_OUT OUT_IN CONTROL
M1 OUT_IN _C IN_OUT $G_Vdd CD4007P
M2 IN_OUT N003 OUT_IN $G_Vss CD4007N
M3 $G_Vdd CONTROL _C $G_Vdd CD4007P
M4 _C CONTROL $G_Vss $G_Vss CD4007N
M5 $G_Vdd _C N003 $G_Vdd CD4007P
M6 N003 _C $G_Vss $G_Vss CD4007N
.ends tg

.subckt max A B MAX_OUT
XX1 A B P001 tnor
XX2 P001 MAX_OUT sti
.ends max

.subckt dtflop-ms D C Q
XX1 N004 N002 sti
XX2 N003 N004 sti
XX3 N006 Q sti
XX4 Q N005 sti
XX5 N002 N003 C tg
XX6 N006 N004 C tg
XX7 D N003 N001 tg
XX8 N005 N006 N001 tg
XX9 C N001 sti
.ends dtflop-ms

.subckt tnand A B TNAND_Out
RP N001 TNAND_Out 12k
RN TNAND_Out N002 12k
MP1 N001 B $G_Vdd $G_Vdd CD4007P
MP2 N001 A $G_Vdd $G_Vdd CD4007P
MN2 N003 B $G_Vss $G_Vss CD4007N
MN1 N002 A N003 $G_Vss CD4007N
.ends tnand

.subckt mux9-3 IiA IiB IiC I0A I0B I0C I1A I1B I1C S QC QB QA
XX1 IiA I0A I1A S QA mux3-1
XX2 IiB I0B I1B S QB mux3-1
XX3 IiC I0C I1C S QC mux3-1
.ends mux9-3

.subckt tinv Vin PTI_Out STI_Out NTI_Out
RP PTI_Out STI_Out 12k
RN STI_Out NTI_Out 12k
MN NTI_Out Vin $G_Vss $G_Vss CD4007N
MP PTI_Out Vin $G_Vdd $G_Vdd CD4007P
.ends tinv

.model NMOS NMOS
.model PMOS PMOS
.lib C:\PROGRA~1\LTC\SwCADIII\lib\cmp\standard.mos
.tran 160u
* Reset address
* Loads into A: _1 0, 1 _1, 0 0
.backanno
.end
